US07456169B2
(4-chloro-2-methoxyphenyl)(1,3-thiazol-5-yl)methanol
A solution of 4-bromo-2-trimethylsilanyl-thiazole (1.0 g, 4.23 mmol) in THF (8 mL) was cooled to −78° C. n-BuLi (1.68 mL, 2.5M in hexanes, 4.65 mmol) was added dropwise and the resulting solution was stirred at −78° C. for 30 minutes. A solution of 4-chloro-2-methoxy-benzaldehyde in THF (2 mL) was added to the reaction, followed by 30 minutes of stirring at −78° C. The reaction was then allowed to warm slowly to room temperature. 3M HCl (10 mL) was added and the reaction was stirred for 16 hours. The solution was then neutralized with Na2CO3 solution and partitioned between ethyl acetate and water. The combined organic layers were dried (MgSO4), filtered, and concentrated under vacuum. The residue was then purified by flash column chromatography on silica gel with 7:3 hexanes/ethyl acetate to provide 204 mg (19%) of the title compound. MS (ESI) m/e 256 (M+H)+, 1H NMR (DMSO-d6, 300 MHz): □ 8.92 (s, 1H), 7.61 (s, 1H), 7.51 (d, J=7.80 Hz, 1H), 7.03-7.07 (m, 2H), 6.30 (d, J=4.75 Hz, 1H), 6.19 (d, J=4.41 Hz, 1H), 3.81 (s, 3H).

reactant | 4-bromo-2-trimethylsilanyl-thiazole | 4.23 mmol, 1.0 g | BrC=1N=C(SC1)[Si](C)(C)C | C6H10BrNSSi
reactant | n-BuLi | 4.65 mmol, 2.5M, 1.68 mL | [Li]CCCC
reactant | 4-chloro-2-methoxy-benzaldehyde | ClC1=CC(=C(C=O)C=C1)OC | C8H7ClO2
reactant | HCl | 3M, 10 mL | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4-chloro-2-methoxyphenyl)(1,3-thiazol-5-yl)methanol | 204 mg, 19% | ClC1=CC(=C(C=C1)C(O)C1=CN=CS1)OC | C11H10ClNO2S
